US04948794
A mixture of 0,5 g (2.1 mmol) N-benzyl-2-amino-4-nitroaniline and 0,55 g (4,4 mmol) oxalic acid dihydrate in 30 ml 4N hydrochloric acid was refluxed for 5 h. After cooling to 25° C. the product was filtered off and washed with water. The crude product was recrystallized (dimethylformamidewater), washed with 10 ml water, 5 ml ethanol and 5 ml ether to give 0.3 g (49%) 1-benzyl-6-nitroquinoxaline-2,3(1H,4H)-dione. M.p. (DSC): 292.2 ° C. 1H-NMR (DMSO-d6): 12.4 (H, broad s), 8.2-7.0 (8H, m), 5.4 (2H, s).

reactant | N-benzyl-2-amino-4-nitroaniline | 2.1 mmol, 0,5 g | C(C1=CC=CC=C1)NC1=C(C=C(C=C1)[N+](=O)[O-])N | C13H13N3O2
reactant | oxalic acid dihydrate | 4,4 mmol, 0,55 g | O.O.C(C(=O)O)(=O)O
solvent | hydrochloric acid | 4N, 30 ml | Cl | ClH
product | 1-benzyl-6-nitroquinoxaline-2,3(1H,4H)-dione | 0.3 g, 49% | C(C1=CC=CC=C1)N1C(C(NC2=CC(=CC=C12)[N+](=O)[O-])=O)=O | C15H11N3O4
